* NGSPICE file created from gf180mcu_ocd_io__dvss.ext - technology: gf180mcuD

.subckt comp018green_esd_rc_v5p0 VRC VPLUS VMINUS
X0 a_353_2269# a_13226_1989# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X1 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X2 a_353_3389# a_13226_3109# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X3 a_353_2829# a_13226_3109# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X4 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X5 a_353_1709# a_13226_1989# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X6 a_353_1709# a_13226_1429# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X7 a_353_2829# a_13226_2549# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X8 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X9 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X10 VRC a_13226_3669# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X11 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X12 a_353_1149# a_13226_1429# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X13 VPLUS a_13226_869# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X14 a_353_2269# a_13226_2549# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X15 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X16 a_353_3389# a_13226_3669# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X17 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X18 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X19 a_353_1149# a_13226_869# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
.ends

.subckt nmos_clamp_20_50_4_DVSS a_582_632# w_n51_n51# a_1237_1481#
X0 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X1 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X2 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X3 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X4 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X5 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X6 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X7 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=22p pd=0.10088m as=13p ps=50.52u w=50u l=0.7u
X8 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=22p pd=0.10088m as=13p ps=50.52u w=50u l=0.7u
X9 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X10 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X11 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X12 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X13 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X14 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X15 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X16 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X17 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X18 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X19 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X20 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X21 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X22 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X23 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X24 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=22p pd=0.10088m as=13p ps=50.52u w=50u l=0.7u
X25 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X26 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X27 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X28 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X29 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X30 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X31 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X32 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X33 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X34 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X35 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X36 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X37 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X38 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X39 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X40 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X41 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X42 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X43 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X44 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=22p ps=0.10088m w=50u l=0.7u
X45 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X46 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X47 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X48 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X49 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X50 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X51 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X52 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X53 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X54 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=22p ps=0.10088m w=50u l=0.7u
X55 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=22p ps=0.10088m w=50u l=0.7u
X56 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X57 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X58 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X59 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X60 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X61 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X62 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X63 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X64 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X65 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X66 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X67 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X68 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X69 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X70 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X71 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X72 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X73 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=22p pd=0.10088m as=13p ps=50.52u w=50u l=0.7u
X74 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X75 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X76 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X77 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X78 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X79 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=22p ps=0.10088m w=50u l=0.7u
.ends

.subckt comp018green_esd_clamp_v5p0_DVSS comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VMINUS
Xcomp018green_esd_rc_v5p0_0 comp018green_esd_rc_v5p0_0/VRC comp018green_esd_rc_v5p0_0/VPLUS
+ comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0
Xnmos_clamp_20_50_4_DVSS_0 comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VPLUS
+ a_4685_27917# nmos_clamp_20_50_4_DVSS
X0 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X1 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X2 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X3 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X4 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X5 a_3781_27917# a_2805_27917# comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X6 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=2.2p ps=10.88u w=5u l=0.7u
X7 comp018green_esd_rc_v5p0_0/VMINUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X8 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X9 a_3781_27917# a_2805_27917# comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=2.2p ps=10.88u w=5u l=0.7u
X10 comp018green_esd_rc_v5p0_0/VMINUS a_2805_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X11 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X12 a_3781_27917# a_2805_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X13 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X14 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X15 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X16 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X17 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X18 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X19 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X20 comp018green_esd_rc_v5p0_0/VMINUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X21 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X22 comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VRC a_2805_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X23 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X24 a_2805_27917# comp018green_esd_rc_v5p0_0/VRC comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=0.7u
X25 comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VRC a_2805_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X26 comp018green_esd_rc_v5p0_0/VMINUS a_2805_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X27 a_2805_27917# comp018green_esd_rc_v5p0_0/VRC comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=2.2p ps=10.88u w=5u l=0.7u
X28 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X29 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X30 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X31 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X32 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=2.2p pd=10.88u as=1.3p ps=5.52u w=5u l=0.7u
X33 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X34 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X35 a_3781_27917# a_2805_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=2.2p pd=10.88u as=1.3p ps=5.52u w=5u l=0.7u
X36 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X37 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X38 comp018green_esd_rc_v5p0_0/VMINUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=2.2p pd=10.88u as=1.3p ps=5.52u w=5u l=0.7u
X39 a_2805_27917# comp018green_esd_rc_v5p0_0/VRC comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X40 a_3781_27917# a_2805_27917# comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X41 comp018green_esd_rc_v5p0_0/VMINUS a_2805_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X42 comp018green_esd_rc_v5p0_0/VPLUS a_2805_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X43 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
.ends

.subckt GF_NI_DVSS_BASE DVDD DVDD_uq0 DVDD_uq1 DVDD_uq2 DVDD_uq3 DVDD_uq4 DVDD_uq5
+ DVDD_uq6 DVDD_uq7 DVDD_uq8 DVDD_uq9 DVDD_uq10 m2_2292_38400# a_12742_47643# DVSS
+ comp018green_esd_clamp_v5p0_DVSS_0/comp018green_esd_rc_v5p0_0/VPLUS
Xcomp018green_esd_clamp_v5p0_DVSS_0 comp018green_esd_clamp_v5p0_DVSS_0/comp018green_esd_rc_v5p0_0/VPLUS
+ DVSS comp018green_esd_clamp_v5p0_DVSS
D0 DVSS comp018green_esd_clamp_v5p0_DVSS_0/comp018green_esd_rc_v5p0_0/VPLUS diode_nd2ps_06v0 pj=82u area=40p
X0 comp018green_esd_clamp_v5p0_DVSS_0/comp018green_esd_rc_v5p0_0/VPLUS DVSS cap_nmos_06v0 c_width=15u c_length=15u
D1 DVSS comp018green_esd_clamp_v5p0_DVSS_0/comp018green_esd_rc_v5p0_0/VPLUS diode_nd2ps_06v0 pj=82u area=40p
D2 DVSS comp018green_esd_clamp_v5p0_DVSS_0/comp018green_esd_rc_v5p0_0/VPLUS diode_nd2ps_06v0 pj=82u area=40p
D3 DVSS comp018green_esd_clamp_v5p0_DVSS_0/comp018green_esd_rc_v5p0_0/VPLUS diode_nd2ps_06v0 pj=82u area=40p
X1 comp018green_esd_clamp_v5p0_DVSS_0/comp018green_esd_rc_v5p0_0/VPLUS DVSS cap_nmos_06v0 c_width=15u c_length=15u
X2 comp018green_esd_clamp_v5p0_DVSS_0/comp018green_esd_rc_v5p0_0/VPLUS DVSS cap_nmos_06v0 c_width=15u c_length=15u
X3 comp018green_esd_clamp_v5p0_DVSS_0/comp018green_esd_rc_v5p0_0/VPLUS DVSS cap_nmos_06v0 c_width=15u c_length=15u
.ends

.subckt x5LM_METAL_RAIL_PAD_60 VSUBS Bondpad_5LM_0/m2_n400_0# 5LM_METAL_RAIL_0/DVDD
+ 5LM_METAL_RAIL_0/VDD_uq0 5LM_METAL_RAIL_0/VDD 5LM_METAL_RAIL_0/VSS 5LM_METAL_RAIL_0/DVDD_uq4
+ 5LM_METAL_RAIL_0/DVDD_uq3 5LM_METAL_RAIL_0/DVDD_uq2 5LM_METAL_RAIL_0/DVSS 5LM_METAL_RAIL_0/DVDD_uq0
+ 5LM_METAL_RAIL_0/DVDD_uq1 5LM_METAL_RAIL_0/DVSS_uq0 5LM_METAL_RAIL_0/DVSS_uq6 5LM_METAL_RAIL_0/VSS_uq0
+ 5LM_METAL_RAIL_0/DVSS_uq5 5LM_METAL_RAIL_0/DVSS_uq4 5LM_METAL_RAIL_0/DVSS_uq3 5LM_METAL_RAIL_0/DVSS_uq2
+ 5LM_METAL_RAIL_0/DVSS_uq1
.ends

.subckt gf180mcu_ocd_io__dvss DVDD DVSS VDD VSS
XGF_NI_DVSS_BASE_0 DVDD DVDD DVDD DVDD DVDD DVDD DVDD DVDD DVDD DVDD DVDD DVDD VDD
+ VSS DVSS DVDD GF_NI_DVSS_BASE
X5LM_METAL_RAIL_PAD_60_0 VSS DVSS DVDD VDD VDD VSS DVDD DVDD DVDD DVSS DVDD DVDD DVSS
+ DVSS VSS DVSS DVSS DVSS DVSS DVSS x5LM_METAL_RAIL_PAD_60
.ends

